US07300946B2
Step E Synthesis of {1-[(4-(2-pyridyloxy)phenyl)methyl](4-piperidyl)}[4-(trifluoromethyl)phenyl]methanol as an intermediate
A solution of 6.1 grams (0.021 mole) of 4-(trifluoromethylphenyl)-4-piperidylmethanol, hydrochloride salt in 31 mL of DMSO was stirred, and 10.7 grams (0.083 mole) of N,N-diisopropylethylamine was added. Upon completion of addition, the reaction mixture was stirred for 10 minutes, and was then added to the 5.0 grams (0.023 mole) of (4-(2-pyridyloxy)phenyl)methyl chloride that was prepared in Step B of this Example. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 16 hours. After this time, the reaction mixture was treated with aqueous 10% sodium carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with an aqueous solution saturated with sodium chloride. The ethyl acetate layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using mixtures of acetone and methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 4.2 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-(trifluoromethylphenyl)-4-piperidylmethanol, hydrochloride salt | 0.021 mole, 6.1 grams | Cl.FC(F)(F)C1=C(C=CC=C1)C1(CCNCC1)CO
reactant | N,N-diisopropylethylamine | 0.083 mole, 10.7 grams | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-(2-pyridyloxy)phenyl)methyl chloride | 0.023 mole, 5.0 grams | N1=C(C=CC=C1)OC1=CC=C(C=C1)CCl | C12H10ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMSO | 31 mL | CS(=O)C | C2H6OS
product | {1-[(4-(2-pyridyloxy)phenyl)methyl](4-piperidyl)}[4-(trifluoromethyl)phenyl]methanol | 4.2 grams | N1=C(C=CC=C1)OC1=CC=C(C=C1)CN1CCC(CC1)C(O)C1=CC=C(C=C1)C(F)(F)F | C25H25F3N2O2
